US05684004
(E and Z)-1-[4-(6-Diethylaminohexoxy)phenyl]-1,2-diphenyl-2-chloro-ethylene
Combine (E and Z)-1-[4-(6-diethylaminohexoxy)phenyl]-1,2-diphenyl-ethylene (2.17 g, 5.07 mmol), N-chlorosuccinimide (0.745 g, 5.57 mmol), and chloroform (40 mL). Heat to reflux for 18 hours. Cool to ambient temperature. Add N-chlorosuccinimide (0.745 g, 5.57 mmol). Heat to reflux. After 2 hours evaporate in vacuo. Chromatograph on silica gel eluting with 10% methanol/dichloromethane. Combine product containing fractions and concentrate in vacuo to give the title compound. Separate the isomers by HPLC, 90 mg per injection, using a Waters and Associates μPorasil column (19 mm by 300 mm), eluting with 80/20/0.2 chloroform/hexane/triethylamine at 20 mL/minute to give (E)-1-[4-(6-diethylaminohexoxy)phenyl]-1,2-diphenyl-2-chloro-ethylene and (Z)-1-[4-(6-diethylaminohexoxy)phenyl]-1,2-diphenyl-2-chloro-ethylene.

reactant | 1-[4-(6-diethylaminohexoxy)phenyl]-1,2-diphenyl-ethylene | 5.07 mmol, 2.17 g | C(C)N(CCCCCCOC1=CC=C(C=C1)C(=CC1=CC=CC=C1)C1=CC=CC=C1)CC | C30H37NO
reactant | N-chlorosuccinimide | 5.57 mmol, 0.745 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 5.57 mmol, 0.745 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-(6-Diethylaminohexoxy)phenyl]-1,2-diphenyl-2-chloro-ethylene | C(C)N(CCCCCCOC1=CC=C(C=C1)C(=C(Cl)C1=CC=CC=C1)C1=CC=CC=C1)CC | C30H36ClNO
